US04567268
In a similar manner 2.02 grams (2.52 grams of 80 percent; 6.31 millimoles) of pyridinium bromide perbromide is added in a single portion to a cooled to 0° C. solution of 1.91 grams (5.26 millimoles) of dimethyl 2,6-diethyl-4-(4-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate and 0.79 gram (10.1 millimoles) of pyridine in 40 milliliters of chloroform. The resulting mixture is stirred at this temperature for 30 minutes, then at reflux temperature for 90 minutes. The mixture is then allowed to cool, diluted with chloroform, the diluted solution washed with 2N hydrochloric acid and brine, and dried; the solvent then is evaporated to obtain the methyl 2-ethyl-4-(4-chlorphenyl)-5-oxo-7-methyl-1,4,5,7-tetrahydrofuro[3,4-b]pyridine 3-carboxylate product as residue. The residue is purified by chromatographing on silica gel using ethyl acetate-hexane as eluant.

reactant | pyridinium bromide perbromide | 6.31 millimoles, 2.02 grams | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | dimethyl 2,6-diethyl-4-(4-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 5.26 millimoles, 1.91 grams | C(C)C=1NC(=C(C(C1C(=O)OC)C1=CC=C(C=C1)Cl)C(=O)OC)CC | C19H22ClNO4
reactant | pyridine | 10.1 millimoles, 0.79 gram | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 40 milliliters | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-ethyl-4-(4-chlorphenyl)-5-oxo-7-methyl-1,4,5,7-tetrahydrofuro[3,4-b]pyridine 3-carboxylate | C(C)C1=C(C(C2=C(N1)C(OC2=O)C)C2=CC=C(C=C2)Cl)C(=O)OC | C18H18ClNO4
